US07273859B2
2-{[1-(2-hydroxyethoxy)cyclobutanecarboximidoyl]-aminooxy}but-2-enedioic acid diethyl ester
A solution of 1-(2-trimethylsilanyloxyethoxy)cyclobutanecarbonitrile (3.5 g, 16.4 mmol) and 50% aqueous hydroxylamine (1.08 g, 16.4 mmol) in EtOH (16 mL) was stirred in an oil bath heated at 80° C. for 2.5 hrs and then cooled to room temperature. To a solution was added drop-wise diethyl acetylenedicarboxylate (2.93 g, 17.2 mmol) in an ice-bath and the mixture stirred at room temperature for 5 hrs. This mixture was concentrated in vacuo to obtain 6.16 g of a crude brownish oil containing intermediate 25: 1H NMR (500 MHz, CDCl3) δ: 1.19-1.38 (6H, m) 1.72-1.86 (2H, m) 2.06-2.24 (2H, m) 2.29-2.49 (2H, m) 3.26-3.38 (2H, m) 3.65-3.76 (2H, m) 4.11-4.19 (2H, m) 4.24-4.38 (2H, m) 5.67 (0.25H, s) 5.85 (0.5H, s). HRMS (M+H) calcd for C15H25N2O7 345.1662. Found 345.1648.

reactant | 1-(2-trimethylsilanyloxyethoxy)cyclobutanecarbonitrile | 16.4 mmol, 3.5 g | C[Si](OCCOC1(CCC1)C#N)(C)C | C10H19NO2Si
reactant | hydroxylamine | 16.4 mmol, 1.08 g | NO | H3NO
reactant | diethyl acetylenedicarboxylate | 17.2 mmol, 2.93 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | EtOH | 16 mL | CCO | C2H6O
product | 2-{[1-(2-hydroxyethoxy)cyclobutanecarboximidoyl]-aminooxy}but-2-enedioic acid diethyl ester | C(C)OC(C(=CC(=O)OCC)ONC(=N)C1(CCC1)OCCO)=O | C15H24N2O7
